US09169246B2
Step 2.1. 7-(3-aminopyrid-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1 5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one
7-Bromo-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 7-bromo-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (9.7 g, 19.4 mmol), potassium carbonate (5.3 g, 38.4 mmol), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrid-2-amine (4.82 g, 21.9 mmol), 14 mL of anhydrous DMF, 1.8 mL of degassed water, and the catalyst PdCl2(dppf) (0.79 g, 0.96 mmol) are successively introduced into a microwave reactor under argon. The reactor is sealed and the mixture is stirred for 10 minutes at 130° C. under microwave irradiation. The mixture is diluted with EtOAc, poured into saturated aqueous NaHCO3 solution and stirred for 30 minutes. The precipitate is filtered off and washed with water and then taken up in isopropanol. After filtering off and drying, 7.58 g of a grey powder are obtained (yield: 88%).

reactant | 7-Bromo-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | BrC=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C17H15BrF3N3O2
reactant | 7-bromo-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 19.4 mmol, 9.7 g | BrC=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)CN(N3)C3OCCCC3 | C17H17BrF3N3O2
reactant | potassium carbonate | 38.4 mmol, 5.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrid-2-amine | 21.9 mmol, 4.82 g | CC1(OB(OC1(C)C)C=1C(=NC=CC1)N)C | C11H17BN2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.96 mmol, 0.79 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1.8 mL | O | H2O
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
product | 7-(3-aminopyrid-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-1 5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 7.58 g, yield: 88% | NC=1C=NC=CC1C=1C=CC=2C3=C(C(N(C2C1)CC(F)(F)F)=O)C=NN3C3OCCCC3 | C22H20F3N5O2
